US09447044B2
Step A: 2-cyclopentylsulfanyl-nicotinic acid
2-Mercapto-nicotinic acid (1.0 g, 6.44 mmol) and bromo-cyclopentane (2 mL, 19.33 mmol) were reacted in the same manner as in Step A of Preparation Example 1 to obtain the title compound, which was used in the next step without a separate purification process.

reactant | 2-Mercapto-nicotinic acid | 6.44 mmol, 1.0 g | SC1=C(C(=O)O)C=CC=N1 | C6H5NO2S
reactant | bromo-cyclopentane | 19.33 mmol, 2 mL | BrC1CCCC1 | C5H9Br
product | 2-cyclopentylsulfanyl-nicotinic acid | C1(CCCC1)SC1=C(C(=O)O)C=CC=N1 | C11H13NO2S
